US07947693B2
d) (2R)-2-[(2-Amino-5-{[(1S)-1-(2-fluorophenyl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-fluoro-4-methylpentan-1-ol
DIPEA (2.09 mL, 12.0 mmol) was added to 7-chloro-5-{[(1S) -1-(2-fluorophenyl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-2-amine (1.36 g, 4.0 mmol) and (2R)-2-amino-4-fluoro-4-methylpentan-1-ol (4 mmol) in NMP (3 mL). After stirring the reaction mixture at 120° C. for 22 h it was poured into water and the precipitate was collected by filtration. The solid was purified by flash column chromatography (a stepwise gradient of 5%-10% MeOH in CHCl3) and preparative HPLC to give the title compound (0.22 g, 13% yield).

reactant | DIPEA | 12.0 mmol, 2.09 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 7-chloro-5-{[(1S) -1-(2-fluorophenyl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-2-amine | 4.0 mmol, 1.36 g | ClC=1C2=C(N=C(N1)S[C@@H](C)C1=C(C=CC=C1)F)N=C(S2)N | C13H10ClFN4S2
reactant | (2R)-2-amino-4-fluoro-4-methylpentan-1-ol | 4 mmol | N[C@@H](CO)CC(C)(C)F | C6H14FNO
reactant | water | O | H2O
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | (2R)-2-[(2-Amino-5-{[(1S)-1-(2-fluorophenyl)ethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-yl)amino]-4-fluoro-4-methylpentan-1-ol | 0.22 g, 13% yield | NC=1SC2=C(N=C(N=C2N[C@@H](CO)CC(C)(C)F)S[C@@H](C)C2=C(C=CC=C2)F)N1 | C19H23F2N5OS2
